US08003681B2
N-(2-Chloro-4-sulfamoyl-phenyl)-2-[5-fluoromethyl-4-(4-methyl-naphthalen-1-yl)-4H-[1,2,4]triazol-3-ylsulfanyl]-acetamide
In a solution of 5-fluoromethyl-4-(4-methyl-naphthalen-1-yl)-4H-[1,2,4]triazole-3-thiol (89 mg, 0.33 mmol), K2CO3 (50.0 mg, 0.36 mmol) in DMF (2.0 mL) was added 2-chloro-N-(2-chloro-4-sulfamoyl-phenyl)-acetamide (93 mg, 0.33 mmol). The reaction mixture was stirred at room temperature for 16 h. Upon the completion of the reaction, H2O (2.0 mL) was added to the reaction and stirred till precipitation occurred and filtered to give solid (126.8 mg, 74% yield). 1H NMR (DMSO, 300 MHz) δ 10.12 (broad s, 1H), 8.18 (d, J=8.7 Hz, 1H), 8.04 (dd, J=4.8, 8.7 Hz), 7.87 (s, 1H), 7.76-7.52 (m, 5H), 7.46 (s, 2H), 7.11 (d, J=8.7 Hz, 1H), 5.35 (dd, J=12.3, 26.7 Hz, 1H), 5.19 (dd, J=11.7, 25.8 Hz, 1H); 4.26 (s, 2H), 2.75 (s, 3H).

reactant | 5-fluoromethyl-4-(4-methyl-naphthalen-1-yl)-4H-[1,2,4]triazole-3-thiol | 0.33 mmol, 89 mg | FCC=1N(C(=NN1)S)C1=CC=C(C2=CC=CC=C12)C | C14H12FN3S
reactant | K2CO3 | 0.36 mmol, 50.0 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloro-N-(2-chloro-4-sulfamoyl-phenyl)-acetamide | 0.33 mmol, 93 mg | ClCC(=O)NC1=C(C=C(C=C1)S(N)(=O)=O)Cl | C8H8Cl2N2O3S
reactant | H2O | 2.0 mL | O | H2O
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | N-(2-Chloro-4-sulfamoyl-phenyl)-2-[5-fluoromethyl-4-(4-methyl-naphthalen-1-yl)-4H-[1,2,4]triazol-3-ylsulfanyl]-acetamide | 126.8 mg, 74% yield | ClC1=C(C=CC(=C1)S(N)(=O)=O)NC(CSC1=NN=C(N1C1=CC=C(C2=CC=CC=C12)C)CF)=O | C22H19ClFN5O3S2
